US05075330
1-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]-2-(methylsulfinyl)ethanone (2.0 g, 5.61 mmol) is dissolved in 100 ml of 10% water/tetrahydrofuran and cooled to 0° C. in an ice bath. Aluminum amalgam is prepared by addition of aluminum foil (1.5 g, 56.1 mmol) to 350 ml of 2% aqueous mercuric chloride. After 15 seconds, the liquid is decanted, and the foil is washed twice with absolute ethanol followed by tetrahydrofuran. The freshly prepared aluminum amalgam is added to the reaction mixture which is then stirred for 30 minutes at 0° C. The reaction mixture is filtered through celite, and the solids are washed with tetrahydrofuran. The filtrate is evaporated, and the residue is taken up in ether. The ether solution is washed with 100 ml of water and dried over magnesium sulfate. Evaporation of the solvent gives a yellow solid which is recrystallized from diethyl ether/hexane. Yield (1.0 g, 60%) of 1-[2-[(2,6-dichloro-3 -methylphenyl)amino]phenyl]ethanone; mp 122°-125° C.

reactant | 1-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]-2-(methylsulfinyl)ethanone | 5.61 mmol, 2.0 g | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(CS(=O)C)=O | C16H15Cl2NO2S
reactant | aluminum | [Al] | Al
solvent | water tetrahydrofuran | 100 ml | O.O1CCCC1
product | 1-[2-[(2,6-dichloro-3 -methylphenyl)amino]phenyl]ethanone | 1.0 g, 60% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(C)=O | C15H13Cl2NO
